US05885999
e) N-Phenyl-N-[(piperidin-4-yl)methyl]methanesulfonamide Hydrochloride
Methanolic hydrogen chloride (4M, 20 mL) was added to a stirred, cooled (0° C.) suspension N-[(1-t-butoxycarbonylpiperidin-4-yl)methyl]-N-phenylmethanesulfonamide (2.84 g, 7.7 mmol) in methanol (10 mL) and the mixture was stirred at room temperature for 1 h. The solvent was evaporated under reduced pressure to give the title compound as a tan foam (2.34 g, 100%), δH (250 MHz, d6 -DMSO) 8.90 (2H, br m), 7.45-7.33 (5H, m), 3.53 (2H, d, J 7.0 Hz), 3.19 (2H, m), 2.96 (3H, s), 2.73 (2H, m), 1.80 (2H, m), 1.54 (1H, m), and 1.36 (2H, m).

reactant | hydrogen chloride | 4M, 20 mL | Cl | ClH
reactant | N-[(1-t-butoxycarbonylpiperidin-4-yl)methyl]-N-phenylmethanesulfonamide | 7.7 mmol, 2.84 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CN(S(=O)(=O)C)C1=CC=CC=C1 | C18H28N2O4S
solvent | methanol | 10 mL | CO | CH4O
product | N-Phenyl-N-[(piperidin-4-yl)methyl]methanesulfonamide Hydrochloride | 2.34 g, 100% | Cl.C1(=CC=CC=C1)N(S(=O)(=O)C)CC1CCNCC1 | InChI=1S/C13H20N2O2S.ClH/c1-18(16,17)15(13-5-3-2-4-6-13)11-12-7-9-14-10-8-12;/h2-6,12,14H,7-11H2,1H3;1H
